US09382188B2
step 4) 2-(2,2-dimethylpentyl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol
1-(2′-Fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2,2-dimethylpentan-1-one (43.3 mg) was dissolved in a mixed solution of THF (10 mL) and acetic acid (2 mL), and the reaction was performed in H-Cube having a 20% palladium hydroxide/carbon cartridge (70 mm) at 60° C., 40 atm, flow rate 1 ml/min for 17 hr. The solvent was evaporated under reduced pressure to give the title, compound. This compound was used for the next step without purification.

reactant | 1-(2′-Fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-2,2-dimethylpentan-1-one | 43.3 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(CCC)(C)C)=O | C28H31FO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide/carbon | [OH-].[OH-].[Pd+2]
product | 2-(2,2-dimethylpentyl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol | CC(CC1=C(C=CC(=C1)O)C1=C(C=CC(=C1)OC)F)(CCC)C | C20H25FO2
